datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C([H])[S][C:20]([S][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H] 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C(C)[O]1 10=20;20,21=21"
"[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)C)C1=CC=CC=C1>>C(C(O[C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1)([O-:21])C 10=20;20,21=21"
"[OH:10]C(C1=C(C([CH:20]([H])=[OH+:21])O)C=CC=C1)C>>[OH:21][CH:20]2([H])C(C3=C(C([OH+:10]2)C)C=CC=C3)O 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[O-:10]C(CC)/C(C)=C([C:20](OCC)=[O:21])/O>>[O-:21][C:20]1(OCC)[O:10]C(CC)C(C)=C1O 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C([H])C(C)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C1=CC=CC=C1)[H]>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"CN([C:20](=[O:10])O[H])[H].[O-:21]C>>CN([C:20]([O-:10])(O[H])[O:21]C)[H] 21=20;20,10=10"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[O]CC 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(CC)[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1[H])([O-:10])[O:21]C)[H]>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1[H])[H].[O-:21]C 10=20;20,21=21"
"[H][S+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"C(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)([O-:21])[H]>>C1(C([O:21][C:20](O1)([O-:10])OC1=CC=CC=C1)[H])C 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CCCCCC)[H]>>CCCCCCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[O:20]=[C:21](OC1=CC=CC=C1)OCCCCCC.C1=CC=CC=C1[O:10][K]>>C1=CC=CC=C1[O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)OCCCCCC 10=21;21,20=20"
"[OH:21][CH:20]2(C)C(C3=C(C([NH+:10]2(C))[H])C=CC=C3)[H]>>[NH:10](C)C(C1=C(C([CH:20](C)=[OH+:21])[H])C=CC=C1)[H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C([H])C(C)C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)C(C)C(C)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)C([H])=C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)/C(C)=C([H])\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"CN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)CCCCCC)[H]>>CN([C:20](=[O:10])CCCCCC)[H].C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"C[O:10][H].C[NH+:21]=[C:20]([NH]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C)([NH]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C)[O]CC 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C([O:21]1)C)CC)[O-:10])[H]>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])C)CC)[H] 10=20;20,21=21"
